Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
asymptomatic lung nodule
 
Major Surgical or Invasive Procedure:
___
Video-assisted thoracoscopic surgery, right upper lobe wedge 
resection.

 
History of Present Illness:
Mr ___ is a ___ smoker on whom we preformed a VATS
RML lobectomy and en bloc wedge of lower lobe ___. Path
returned as a 2.8 cm poorly differentiated adenoca with neg 
nodes
and clear margins. pT2aN0Mx, stage 1B. He was last seen in 
clinic
___ for his slowly growing RUL lung nodule. A Pet scan noted 
RUL nodule 1.1 cm with FDG avidity (SUV 2.9)Currently
he reports no problem with cough, SOB, chest pain, sweats, HA, 
wt
loss or new bony pain.

 
Past Medical History:
- Prostate ca s/p prostatectomy ___
- COPD
- Fatigue
- Hyperlipidemia
- b/l carpal tunnel surgeries
- Hypertension
 
Social History:
___
Family History:
No known family history of lung malignancies.
 
Physical Exam:
BP: 164/87. Heart Rate: 60. O2 Saturation%: 97. Weight: 193.1
(With Clothes; With Shoes). BMI: 30.2. Temperature: 98.2. Resp.
Rate: 16. Pain Score: 0. Distress Score: 0.

Gen: NAD
Neck:  no ___: clear ausc
Cor: RRR no murmur
Ext: no CCE

 
Pertinent Results:
___ CXR :
1. No pneumothorax. 
2. Mild enlargement of the cardiac silhouette, and very 
prominent vascular 
markings is consistent with heart failure and volume overload. 
3. Opacification at the right lung base is likely secondary to 
post-procedure atelectasis and/or fluid in the right major 
fissure. 
4. Significant subcutaneous gas over the right hemithorax 

___ CXR :
Compared to the earlier same day examination, there has been 
little interval change.  There remains extensive subcutaneous 
gas throughout the chest wall extending into the lower neck with 
right-sided chest tube in place with possible small effusion, 
without pneumothorax.  Densities in the right lower lung likely 
relate to postsurgical changes.  Streaky opacities in the left 
lower lung are unchanged, likely atelectatic. 
  
___ CXR :
1. Compared to ___ at 19:40, minimal improvement in 
diffuse 
subcutaneous gas and mild improvement in bibasilar atelectasis.  
Otherwise,  there is little change. 
2. No pneumothorax. 
  

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the 
Operating Room where he underwent a video-assisted thoracoscopic 
surgery, right upper lobe wedge resection. He tolerated the 
procdure well and returned to the PACU in stable condition.  He 
maintained stable hemodynamics and his pain was controlled with 
IV Dilaudid.  His ___ drain put out minimal serosanguinous 
fluid and had an intermittent air leak but he had notable 
crepitus over his right chest, shoulder and neck, prompting 
placement of his ___ drain on suction.

Following transfer to the Surgical floor he had some stable 
crepitus and his tube was placed on waterseal the following day. 
 Unfortunately his crepitus got worse on waterseal and the tube 
returned to suction. He had minimal incisional pain and his room 
air saturations were 91-95%. He had no air leak from his tube.

On ___ his waterseal film showed no pneumothorax and his 
crepitus was stable therefore he underwent a clamp trial and his 
chest xray remained stable. His chest tube was removed on 
___ and his post pull film showed no pneumothorax and 
stable subcutaneous emphysema. He did have a linear tape burn to 
the right of his chest tube and that was covered with adaptic  
with plans to keep it covered for 48 hours then remove the 
dressing and let it air dry.

During his stay his blood pressure was elevated as high as 
180/90 and he admits that this has been a recent problem. He was 
restarted on his pre op Metoprolol without any effect and was 
encouraged to follow up with Dr. ___ discharge for 
evaluation and a possible medication adjustment.

He was discharged to home on ___ and will follow up with 
Dr. ___ in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO BID 
4. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Milk of Magnesia 30 mL PO Q12H:PRN constipation  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
5.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath  
6.  Aspirin 81 mg PO DAILY  
7.  Metoprolol Succinate XL 50 mg PO BID  
8.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right upper lobe nodule
Subcutaneous emphysema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.  

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Keep the non adhesive dressing over the tape burns for 48 hrs 
then remove it and let it air dry and scab over.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

 * You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol  ___ mg every 6 hours .  

* Continue to stay well hydrated and eat well to heal your 
incisions

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
 * No tub bathing, swimming or hot tubs until incision healed
 * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

 

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**
 
Followup Instructions:
___